US05763437
A mixture of (3RS)-3-amino-1-[(3-azabicyclo[3.2.2]non-3-yl)carbonylmethyl]-2,3-dihydro-5-(2-fluorophenyl)-1H-1,4-benzodiazepin-2-one, 3-hydroxybenzoic acid, and WSC-HCl was stirred in CH2Cl2 at room temperature overnight. Ethyl acetate and iN HCl were added in the reaction mixture and organic layer was separated, and washed with water and brine, and dried over magnesium sulfate, evaporated in vacuo. The colorless powder was washed with isopropyl ether to afford (3RS)-1-(3-azabicyclo[3.2.2]non-3-yl)carbonylmethyl-2,3-dihydro-3-(3-hydroxyphenyl)carbonylamino-5-(2-fluorophenyl)-1H-1,4-benzodiazepin-2-one.

reactant | (3RS)-3-amino-1-[(3-azabicyclo[3.2.2]non-3-yl)carbonylmethyl]-2,3-dihydro-5-(2-fluorophenyl)-1H-1,4-benzodiazepin-2-one | NC1C(N(C2=C(C(=N1)C1=C(C=CC=C1)F)C=CC=C2)CC(=O)N2CC1CCC(C2)CC1)=O | C25H27FN4O2
reactant | 3-hydroxybenzoic acid | OC=1C=C(C(=O)O)C=CC1 | C7H6O3
reactant | WSC HCl | CCN=C=NCCCN(C)C.Cl
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | HCl | Cl | ClH
product | (3RS)-1-(3-azabicyclo[3.2.2]non-3-yl)carbonylmethyl-2,3-dihydro-3-(3-hydroxyphenyl)carbonylamino-5-(2-fluorophenyl)-1H-1,4-benzodiazepin-2-one | C12CN(CC(CC1)CC2)C(=O)CN2C(C(N=C(C1=C2C=CC=C1)C1=C(C=CC=C1)F)NC(=O)C1=CC(=CC=C1)O)=O | C32H31FN4O4
